US07220759B2
In the same manner as in Example 16b and using N,N-diethyl-3-fluoro-2-methylbenzamide (3.46 g) and (R)-3-(3-hydroxypyrrolidin-1-yl)-N-methoxy-N-methylpropanamide (3.36 g), (R)-5-fluoro-3-[2-(3-hydroxypyrrolidin-1-yl)ethyl]-2H-isoquinolin-1-one (1.19 g) was obtained.

reactant | N,N-diethyl-3-fluoro-2-methylbenzamide | 3.46 g | C(C)N(C(C1=C(C(=CC=C1)F)C)=O)CC | C12H16FNO
reactant | (R)-3-(3-hydroxypyrrolidin-1-yl)-N-methoxy-N-methylpropanamide | 3.36 g | O[C@H]1CN(CC1)CCC(=O)N(C)OC | C9H18N2O3
product | (R)-5-fluoro-3-[2-(3-hydroxypyrrolidin-1-yl)ethyl]-2H-isoquinolin-1-one | 1.19 g | FC1=C2C=C(NC(C2=CC=C1)=O)CCN1C[C@@H](CC1)O | C15H17FN2O2
